US04631119
Anisole (400 mL) and 3-nitrobenzenediazonium tetrafluoroborate (54.5 g, 0.23 mol) were placed in a 1-L flask and stirred mechanically. Potassium acetate (49.0 g, 0.5 mol) was added in one portion. The mixture turned red and warmed slightly. Stirring was continued 12 h., then the solution was filtered and the anisole evaporated in vacuo. Column chromatography of the residue (alumina, 0-10% ether/hexane, first yellow band) and recrystallization (95% EtOH) provided pure 2-methoxy-3'-nitrobiphenyl: 18 g (35%); mp 68°-69° C.

reactant | 3-nitrobenzenediazonium tetrafluoroborate | 0.23 mol, 54.5 g | F[B-](F)(F)F.[N+](=O)([O-])C=1C=C(C=CC1)[N+]#N
reactant | Potassium acetate | 0.5 mol, 49.0 g | C(C)(=O)[O-].[K+]
reactant | Anisole | 400 mL | C1(=CC=CC=C1)OC | C7H8O
product | 2-methoxy-3'-nitrobiphenyl | COC1=C(C=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C13H11NO3
